US08877961B2
(1S,5R)-7-Oxo-6-(1(R)-phenyl-ethyl)-2,6-diaza-bicyclo[3.2.0]heptane-2-carboxylic acid tert-butyl ester
(1S,5R)-7-Oxo-6-(1(R)-phenyl-ethyl)-2,6-diaza-bicyclo[3.2.0]heptane-2-carboxylic acid benzyl ester (500 mg; 1.43 mmol) is dissolved in ethanol (20 ml). Palladium on charcoal (5%; 150 mg) is added to the reaction mixture. Then BOC anhydride (370 mg; 1.71 mmol) is added. The reaction mixture is stirred under hydrogen atmosphere at a pressure of 1 bar for 4 hours. The palladium catalyst is filtered off.

reactant | (1S,5R)-7-Oxo-6-(1(R)-phenyl-ethyl)-2,6-diaza-bicyclo[3.2.0]heptane-2-carboxylic acid benzyl ester | 1.43 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H]2C(N([C@@H]2CC1)[C@H](C)C1=CC=CC=C1)=O | C21H22N2O3
reactant | BOC anhydride | 1.71 mmol, 370 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | 150 mg | [Pd] | Pd
product | (1S,5R)-7-Oxo-6-(1(R)-phenyl-ethyl)-2,6-diaza-bicyclo[3.2.0]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C(N([C@@H]2CC1)[C@H](C)C1=CC=CC=C1)=O | C18H24N2O3
